.SUBCKT DUT in out vdd vss

* Include our op-amps
.include 'OPA1656.hsp'

* Include the Equalizer
.INCLUDE 'EQ.hsp'
X10 in eqout EQ BASS=1 MID=1 TREBLE=1

* Resistors
R1 N2 0 100k
R2 N3 0 12k
R3 N3 out 100k

* Capacitors
Chp eqout N2 88n
C1plus vdd 0 0.1u
C1minus vss 0 0.1u

* Op-Amps
X1 N2 N3 vdd vss out OPA1656

.ENDS DUT