.SUBCKT DUT in out vdd vss

* Include our op-amps
.include 'OPA1656.hsp'
.include 'buf634a_a.hsp'

* Include the Equalizer
.INCLUDE 'EQ.hsp'
X10 in eqout EQ BASS=1 MID=1 TREBLE=1

* Resistors
R1 N2 0 100k
R2 N3 0 12k
R3 N3 N41 1m
Rlp N41 N42 1k

* Capacitors
Chp eqout N2 88n
C1plus vdd 0 0.1u
C2plus vdd 0 100u
C3plus vdd 0 0.1u
Clp N42 0 6.4n

C1minus vss 0 0.1u
C2minus vss 0 100u
C3minus vss 0 0.1u

* Op-Amps
X1 N2 N3 vdd vss N41 OPA1656
X2 N42 out vdd vss BUF634A

.ENDS DUT